US08629271B2
a) 1-(3-((tert-Butyldimethylsilyloxy)methyl)phenyl)propan-2-one
A mixture of (3-bromobenzyloxy)(tert-butyl)dimethylsilane (16.72 g), isopropenyl acetate (9.2 mL), tri-n-butyltin methoxide (24 mL), palladium(II)acetate (0.625 g) and tri(o-tolyl)phosphine (1.70 g) in anhydrous toluene (65 mL) was heated at reflux at 100° C. for 5 hours and then left to cool overnight. The mixture was diluted with ethyl acetate (130 mL) and 4 molar aqueous potassium fluoride (80 mL) and stirred vigorously for 20 minutes. Diatomaceous earth was added and the suspension was then filtered through diatomaceous earth, washing the residue well with ethyl acetate. The combined filtrate and washings were dried over anhydrous magnesium sulphate and concentrated in vacuo and purified by flash chromatography on silica eluting with isohexane, 10% dichloromethane in isohexane and 20% diethyl ether in isohexane to afford the subtitled compound as a yellow oil. Yield 13.71 g.

reactant | (3-bromobenzyloxy)(tert-butyl)dimethylsilane | 16.72 g | BrC=1C=C(CO[Si](C)(C)C(C)(C)C)C=CC1 | C13H21BrOSi
reactant | isopropenyl acetate | 9.2 mL | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-n-butyltin methoxide | 24 mL | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | tri(o-tolyl)phosphine | 1.70 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 130 mL | C(C)(=O)OCC | C4H8O2
solvent | potassium fluoride | 4 molar, 80 mL | [F-].[K+]
catalyst | palladium(II)acetate | 0.625 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(3-((tert-Butyldimethylsilyloxy)methyl)phenyl)propan-2-one | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)CC(C)=O | C16H26O2Si
